US05055579
2-[3-(4,6-bis-trichloromethyl-s-triazin-2-yl)benzoylmethylene]-3-ethyl-benzothiazoline (compound 25)
3-Ethyl-2-methyl-benzothiazolium-p-toluenesulfonate (5.0 pbw) and 3-(4,6-bis-trichloromethyl-s-triazin-2-yl) benzoylchloride (7.4 pbw) are successively suspended or dissolved, respectively, in 50 pbw of toluene. The mixture is cooled to 15° C. and, at this temperature, 6.0 pbw of triethylamine are added dropwise with the exclusion of moisture. The mixture discolors towards dark brown and is stirred for 3 hours at room temperature. The precipitate that forms is removed by filtration with suction and washed with cold toluene. The residue is digested in 200 pbw of methanol and stirred for about 60 minutes, filtered again and dried. The product is recrystallized from 2-methoxy-ethanol, giving orange-colored crystals.

reactant | 3-Ethyl-2-methyl-benzothiazolium p-toluenesulfonate | C(C)[N+]1=C(SC2=C1C=CC=C2)C.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | 3-(4,6-bis-trichloromethyl-s-triazin-2-yl) benzoylchloride | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C=1C=C(C(=O)Cl)C=CC1)(Cl)Cl | C12H4Cl7N3O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[3-(4,6-bis-trichloromethyl-s-triazin-2-yl)benzoylmethylene]-3-ethyl-benzothiazoline | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C=1C=C(C(=O)C=C2SC3=C(N2CC)C=CC=C3)C=CC1)(Cl)Cl | C22H14Cl6N4OS
